US07781426B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (500 mg, 0.837 mmol), 3,3-dimethylpiperidine (142.5 mg, 1.26 mmol), Bis(tri-t-butylphosphine)palladium (0) (43 mg, 0.084 mmol), cesium carbonate (685 mg, 2.10 mmol) and 1,4-dioxane (5 mL) were sealed in a microwave vessel. The reaction mixture was irradiated by microwave at 170° C. for 30 minutes. Reaction crude was purified by SiO2 to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(3,3-dimethylpiperidin-1-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=582.19; found=583.44 (M+1)+. 1H NMR signals are doubled because of atropoisomerism 1H NMR (CDCl3, 500 MHz) δ 7.88 (s, 1H), 7.77 (s, 2H), 7.58 (s, 1H), 7.52 (d, J=8.0 Hz, 1H), 7.16 (d, J=8.5 Hz, 1H), 5.72 (d, J=8.0 Hz, 1H), 4.76 (d, J=16 Hz, 1H), 4.57 (d, J=15.5 Hz, 1H), 3.94-3.87 (m, 1H), 2.84 (br s, 1H), 2.68 (br s, 1H), 2.63 (d, J=11 Hz, 1H), 2.52 (d, J=11 Hz, 1H), 1.81 (br s, 1H), 1.71 (br s, 1H), 1.38 (br s, 2H), 1.06 (s, 3H), 0.99 (s, 3H), 0.67, 0.66 (s, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.837 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | 3,3-dimethylpiperidine | 1.26 mmol, 142.5 mg | CC1(CNCCC1)C | C7H15N
reactant | cesium carbonate | 2.10 mmol, 685 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Bis(tri-t-butylphosphine)palladium | 0.084 mmol, 43 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(3,3-dimethylpiperidin-1-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)N1CC(CCC1)(C)C)C)(F)F | C27H27F9N2O2
